US07786108B2
Step 18. Preparation of (S)-(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)amine
Add trifluoroacetic acid (10 mL) to a solution of (S)-tert-butyl 5-[(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (2.04 g, 3.13 mmol) in methylene chloride (50 mL) at 0° C. under nitrogen. Warm the mixture to room temperature, stir for 8 h and pour the mixture into saturated aqueous sodium bicarbonate solution (200 mL). Extract the mixture with methylene chloride (200 mL) and wash the combined organic extracts with brine (50 mL), dry over anhydrous sodium sulfate and filter. Remove the solvent under reduced pressure to provide the title compound as a colorless oil (1.73 g, >99%), which is used in the next step without purification. APCI MS m/z 553 (M+H)+.

reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-tert-butyl 5-[(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 3.13 mmol, 2.04 g | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)C(=O)OC(C)(C)C)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C28H29F9N6O2
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)amine | 1.73 g, >99% | FC(C=1C=C(CN([C@@H]2C3=C(NCCC2)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C23H21F9N6
